US09085555B2
N-(3-Aminomethyl-5-chloro-4-fluoro-benzyl)-N,N′,N′-trimethyl-ethane-1,2-diamine
was prepared according to Scheme C2 (step D) from (3-chloro-5-{[(2-dimethylamino-ethyl)-methyl-amino]-methyl}-2-fluoro-benzyl)-carbamic acid tert-butyl ester (228 mg, 0.51 mmol) and 4N HCl in dioxane. MS (LC-MS): 274.0 [M]+.

reactant | (3-chloro-5-{[(2-dimethylamino-ethyl)-methyl-amino]-methyl}-2-fluoro-benzyl)-carbamic acid tert-butyl ester | 0.51 mmol, 228 mg | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)CN(C)CCN(C)C)Cl)F)=O | C18H29ClFN3O2
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-(3-Aminomethyl-5-chloro-4-fluoro-benzyl)-N,N′,N′-trimethyl-ethane-1,2-diamine | NCC=1C=C(CN(CCN(C)C)C)C=C(C1F)Cl | C13H21ClFN3
